US04431659
Under a dry argon atmosphere a solution of 1.6 grams (0.008 mole) of 2-(4-chlorophenyl)-3-pyrazolidinone in 13 ml of tetrahydrofuran was added dropwise to a stirred mixture of 0.4 gram (0.009 mole) of sodium hydride (55% oil suspension, oil removed by washing with hexane) in 8 ml of dry tetrahydrofuran while at room temperature. After complete addition, the reaction mixture was heated at 50° C. until gas evolution ceased, then cooled to room temperature. A solution of 1.4 grams (0.008 mole) of 4-chlorophenyl isothiocyanate in 8 ml of tetrahydrofuran was added to the reaction mixture and the resultant mixture stirred at room temperature for 14 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture and the total extracted with ethyl acetate. The organic extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and filtered. The solvent was removed by distillation under reduced pressure leaving a solid residue. The solid was purified by recrystallization from ethanol to afford 1.4 grams of 1-(4-chlorophenyl)thiocarbamoyl-2-(4-chlorophenyl)-3-pyrazolidinone (mp 121°-124° C.).

reactant | 2-(4-chlorophenyl)-3-pyrazolidinone | 0.008 mole, 1.6 grams | ClC1=CC=C(C=C1)N1NCCC1=O | C9H9ClN2O
reactant | sodium hydride | 0.009 mole, 0.4 gram | [H-].[Na+]
reactant | 4-chlorophenyl isothiocyanate | 0.008 mole, 1.4 grams | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)thiocarbamoyl-2-(4-chlorophenyl)-3-pyrazolidinone | 1.4 grams | ClC1=CC=C(C=C1)NC(=S)N1N(C(CC1)=O)C1=CC=C(C=C1)Cl | C16H13Cl2N3OS
